US03937704
3-(Methylsulfinyl)-4(1H)-cinnolinone
A solution of 5.0 g (0.025 mole) of 2'-amino-2-(methylsulfinyl)-acetophenone, 30 ml (0.03 mole) of cold (15°C) 1N hydrochloric acid and 100 ml of cold water cooled to 5°C. A solution of 2.07 g (0.03 mole) of sodium nitrite in 10 ml of water was added over a period of 3 minutes with stirring, keeping the temperature at 5°C. A deep red color developed as yellow solid separated. The mixture was allowed to warm up to 20°C. After 15 minutes at 20° the product was filtered, washed with water, 2-propanol and then ether. Wt 5.0 g (64%) mp. 266°-269°. Recrystallization from N,N-dimethylformamide gave pure, white crystals melting at 274°-276°C.

reactant | 2'-amino-2-(methylsulfinyl)-acetophenone | 0.025 mole, 5.0 g | NC1=C(C=CC=C1)C(CS(=O)C)=O | C9H11NO2S
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | sodium nitrite | 0.03 mole, 2.07 g | N(=O)[O-].[Na+]
solvent | water | 10 ml | O | H2O
solvent | water | 100 ml | O | H2O
product | 3-(Methylsulfinyl)-4(1H)-cinnolinone | CS(=O)C1=NNC2=CC=CC=C2C1=O | C9H8N2O2S
